US06630488B1
Compound XXXVI: (+/−)-3-{[8-(2-Amino-ethylamino)-4-oxo-4H-quinolizine-3-carbonyl]-amino}-3-phenyl-propionic Acid
To a stirred solution of (+/−)-3-{[8-(2-tert-butoxycarbonylamino-ethylamino)-4-oxo-4H-quinolizine-3-carbonyl]-amino}-3-phenyl-propionic acid (20.5 mg, 0.042 mmol) in dichloromethane (1 ml) at room temperature was added trifluoroacetic acid (1 ml). The resulting mixture was stirred at room temperature for 45 min. The solvent was removed under vacuum and the resulting residue was subjected to a silica gel chromatography (EtOH:H2O: NH4OH, 90:5:5) to give desired product which was further lyophilized to afford a yellowish solid (30 mg, 73%) which was characterized by 1HNMR (400 MHz, D2O) δ: 2.58-2.65 (m, 2H), 2.90-3.10 (m, 2H), 3.15-3.25 (m, 2H), 5.21 (m, 1H), 6.0-8.7 (m, 10H).

reactant | (+/−)-3-{[8-(2-tert-butoxycarbonylamino-ethylamino)-4-oxo-4H-quinolizine-3-carbonyl]-amino}-3-phenyl-propionic acid | 0.042 mmol, 20.5 mg | C(C)(C)(C)OC(=O)NCCNC=1C=CN2C(C(=CC=C2C1)C(=O)NC(CC(=O)O)C1=CC=CC=C1)=O | C26H30N4O6
reactant | trifluoroacetic acid | 1 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 1 ml | ClCCl | CH2Cl2
product | (+/−)-3-{[8-(2-Amino-ethylamino)-4-oxo-4H-quinolizine-3-carbonyl]-amino}-3-phenyl-propionic Acid | NCCNC=1C=CN2C(C(=CC=C2C1)C(=O)NC(CC(=O)O)C1=CC=CC=C1)=O | C21H22N4O4
